US05144045
(1,1-Dimethylethyl)[[2-[(hexadecyloxy)methyl]-2-propenyl]oxy]dimethylsilane
To a solution of 5.0 g of 2-[(hexadecyloxy)methyl]-2-propen-1-ol in 50 ml of dry N,N-dimethylformamide is added 6.05 g of tert-butyldimethylsilyl chloride followed by 8 g of imidazole. This mixture is stirred overnight, then diluted with ether, washed with saturated aqueous sodium bicarbonate, water and brine, dried and evaporated, to give 6.49 g of the desired compound.

reactant | 2-[(hexadecyloxy)methyl]-2-propen-1-ol | 5.0 g | C(CCCCCCCCCCCCCCC)OCC(CO)=C | C20H40O2
reactant | tert-butyldimethylsilyl chloride | 6.05 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 8 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | (1,1-Dimethylethyl)[[2-[(hexadecyloxy)methyl]-2-propenyl]oxy]dimethylsilane | 6.49 g | CC(C)(C)[Si](C)(C)OCC(=C)COCCCCCCCCCCCCCCCC | C26H54O2Si
